US06548515B1
Step A: N-(3,4-Methylenedioxyphenyl)-3,4,5-trimethoxyaniline
10 mmol of 3,4,5-trimethoxyiodobenzene, 0.4 mmol of palladium acetate, 0.4 mmol of 2,2′-bis(diphenylphosphino)-1,1′-bi naphthyl and 14 mmol of potassium tert-butanolate are added to 10 mmol of 3,4-methylenedioxyaniline dissolved in toluene. After heating for 15 minutes at 100° C., the reaction mixture is brought to ambient temperature, and then dichloromethane and water are added. The organic phase is subsequently separated off and distilled under reduced pressure. The residue is purified by chromatography on silica, using dichloromethane as eluant, to yield the expected product in the form of an oil.

reactant | 3,4,5-trimethoxyiodobenzene | 10 mmol | COC=1C=C(C=C(C1OC)OC)I | C9H11IO3
reactant | 2,2′-bis(diphenylphosphino)-1,1′-bi naphthyl | 0.4 mmol | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | potassium tert-butanolate | 14 mmol | C(C)(C)(C)[O-].[K+]
reactant | 3,4-methylenedioxyaniline | 10 mmol | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.4 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3,4-Methylenedioxyphenyl)-3,4,5-trimethoxyaniline | C1OC=2C=C(C=CC2O1)NC1=CC(=C(C(=C1)OC)OC)OC | C16H17NO5
